US07589042B2
A mixed solution of 8 mL of water and 32 mL of dimethoxyethane was added into a flask into which 2-bromo-6-isopropylanisole (1.98 g, 8.64 mmol), phenylboronic acid (2.10 g, 17.28 mmol), palladium acetate (96 mg, 0.43 mmol), triphenylphosphine (0.225 g, 0.86 mmol), and potassium phosphate (11 g, 51.84 mmol) were already added, and then refluxed at normal temperature for 12 hours. After cooling to normal temperature, an ammonium chloride aqueous solution (15 mL) and 30 mL of diethylether were added thereto to separate an organic layer and extract residues using diethylether. The separated organic layer was dried with magnesium sulfate and volatile materials were removed to produce 2 g of grey 2-isopropyl-6-phenylanisole solid. The anisole thus produced was dissolved in 15 mL of methylene chloride without separate purification, 12 mL of boron tribromide (1 M methylene chloride solution) were dropped thereonto at −78° C., and the reaction was carried out for 12 hours while the temperature was slowly increased to normal temperature. After the reaction, a mixed solution of water (15 mL) and diethylether (30 mL) was added to separate an organic layer and extract an aqueous solution layer using diethylether (15 mL×3), and the separated organic layer was dried. Residues from which volatile components were removed at reduced pressure were purified using a silica gel chromatography tube in a mixed solvent of hexane and methylene chloride to produce 1.72 g of white 2-isopropyl-6-phenylphenol solid.

reactant | 2-bromo-6-isopropylanisole | 8.64 mmol, 1.98 g | BrC1=C(C(=CC=C1)C(C)C)OC | C10H13BrO
reactant | phenylboronic acid | 17.28 mmol, 2.10 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 51.84 mmol, 11 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | 15 mL | [Cl-].[NH4+]
reactant | diethylether | 30 mL | C(C)OCC | C4H10O
catalyst | palladium acetate | 0.43 mmol, 96 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.86 mmol, 0.225 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethoxyethane | 32 mL | C(OC)COC | C4H10O2
solvent | water | 8 mL | O | H2O
product | 2-isopropyl-6-phenylanisole | 2 g | C(C)(C)C1=C(C(=CC=C1)C1=CC=CC=C1)OC | C16H18O
